US03970686
Contacting (1S, 2S, 5S) -5-(1,2,3,4 -tetrahydro-6-methoxy-2-naphthyl)-2-hydroxy-1-methylcyclopentaneacetic acid with butyl vinyl ether in THF containing methanesulfonic acid affords the stereochemically corresponding α-butoxyethyl 2-(α-butoxyethoxy)-5-(1,2,3,4-tetrahydro-6-methoxy-2-naphthyl)-1 -methylcyclopentaneacetate, in which the ester linkage is cleaved and the carboxyl reduced to hydroxy by contacting with lithium tetrahydroaluminate (1-) in THF. From the resultant alcohol, on esterification with acid chloride or anhydride in pyridine, followed by cleavage of the ether linkage via hydrochloric acid in acetone, the corresponding mono ester of the invention wherein the ester grouping is on the ethanolic side chain eventuates. Contacting such a mono ester with acid chloride or anhydride affords a di-ester of the invention.

reactant | (1S, 2S, 5S) -5-(1,2,3,4 -tetrahydro-6-methoxy-2-naphthyl)-2-hydroxy-1-methylcyclopentaneacetic acid | COC=1C=C2CCC(CC2=CC1)[C@@H]1CC[C@@H]([C@]1(CC(=O)O)C)O | C19H26O4
reactant | butyl vinyl ether | C(=C)OCCCC | C6H12O
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | THF | C1CCOC1 | C4H8O
product | α-butoxyethyl 2-(α-butoxyethoxy)-5-(1,2,3,4-tetrahydro-6-methoxy-2-naphthyl)-1 -methylcyclopentaneacetate | C(CCC)OC(C)OC1C(C(CC1)C1CC2=CC=C(C=C2CC1)OC)(CC(=O)OC(C)OCCCC)C | C31H50O6
